US08067445B2
Step 7: {2′-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-6-trifluoromethanesulfonyloxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid ethyl ester
To a slurry of {2′-[(benzyloxycarbonyl-ethyl-amino)-methyl]-6-hydroxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid ethyl ester (0.120 g, 0.23 mmol) and cesium carbonate (0.090 g, 0.28 mmol) in CH2Cl2 was added N-phenyl-bis(trifluoromethanesulfonimide) (0.092 g, 0.26 mmol), and the reaction was stirred at room temperature overnight. The mixture was partitioned between CH2Cl2 and H2O, and the aqueous layer was separated and extracted with CH2Cl2. The combined organic layers were dried over MgSO4, filtered, and concentrated, and the residue was purified by silica gel chromatography to give the title compound.

reactant | {2′-[(benzyloxycarbonyl-ethyl-amino)-methyl]-6-hydroxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid ethyl ester | 0.23 mmol, 0.120 g | C(C)OC(CC=1C=C(C(=CC1)O)C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(=O)OCC1=CC=CC=C1)=O | C28H28F3NO5
reactant | cesium carbonate | 0.28 mmol, 0.090 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N-phenyl-bis(trifluoromethanesulfonimide) | 0.26 mmol, 0.092 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | {2′-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-6-trifluoromethanesulfonyloxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OS(=O)(=O)C(F)(F)F)C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(=O)OCC1=CC=CC=C1)=O | C29H27F6NO7S
